US07683026B2
IV. Preparation of Ac-D-Lys(Z)-D-Pro-OBzl (X)
The previously obtained chloromethylene solution of HCl, H-D-Lys(Z)-D-Pro-OBzl is cooled down to 5° C., added with 135 ml of water, followed by 32.3 ml of acetic anhydride (1.5 eq). At Qsp pH 10 is then added within 30 minutes to 1 hour an aqueous 5N NaOH (90 to 130 ml are required).

reactant | HCl | Cl | ClH
reactant | H-D-Lys(Z)-D-Pro-OBzl | N[C@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)OCC2=CC=CC=C2)CCC1 | C26H33N3O5
reactant | acetic anhydride | 32.3 ml, 1.5 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaOH | 5N, 90 to 130 ml | [OH-].[Na+]
solvent | water | 135 ml | O | H2O
product | Ac-D-Lys(Z)-D-Pro-OBzl | N([C@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)C | C28H35N3O6
